US08053456B2
A flask was charged with 5-isopropyl-2,4-dimethoxy-N-(1-methyl-1H-indol-5-yl)-thiobenzamide (123 mg; 0.33 mmol), dioxane (2 mL), and hydrazine (0.5 mL). The reaction was heated to 100° C. for one hour, and the solvent was removed by evaporation. To the solid cake was added ethyl acetate (10 mL) and 10% aqueous potassium carbonate (1 mL), and it was shaken until the solid was completely dissolved. The organic layer was isolated, and dried with sodium sulfate. To the crude intermediate in the organic layer was added diisopropylethylamine (86 mg, 0.66 mmol) and phenylisocyanide dichloride (88 mg; 1.5 eq.). The reaction was stirred overnight, and washed with saturated aqueous ammonium chloride, dried with sodium sulfate, and the product was purified by column chromatography to give [5-(5-Isopropyl-2,4-dimethoxy-phenyl)-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazol-3-yl]-phenyl-amine (64 mg).

reactant | 5-isopropyl-2,4-dimethoxy-N-(1-methyl-1H-indol-5-yl)-thiobenzamide | 0.33 mmol, 123 mg | C(C)(C)C=1C(=CC(=C(C(=S)NC=2C=C3C=CN(C3=CC2)C)C1)OC)OC | C21H24N2O2S
reactant | hydrazine | 0.5 mL | NN | H4N2
reactant | diisopropylethylamine | 0.66 mmol, 86 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenylisocyanide dichloride | 88 mg, 1.5 eq. | C1=CC=C(C=C1)N=C(Cl)Cl | C7H5Cl2N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | [5-(5-Isopropyl-2,4-dimethoxy-phenyl)-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazol-3-yl]-phenyl-amine | 64 mg | C(C)(C)C=1C(=CC(=C(C1)C=1N(C(=NN1)NC1=CC=CC=C1)C=1C=C2C=CN(C2=CC1)C)OC)OC | C28H29N5O2
